US05670455
To 1.7 g (7.5 mmol) of 4-(2,4-dichlorophenyl)-2-methyl-1H-imidazole stirring in a mixture of 75 ml of tetrahydrofuran and 8 ml of 50% aqueous sodium hydroxide at room temperature, 8 ml of condensed chlorodifluoromethane was added dropwise from a gas addition funnel. The reaction mixture was stirred at ambient temperature overnight. After partitioning between an excess of ethyl acetate and water, the organic layer was separated, washed with water (3×) and brine, dried over magnesium sulfate, and evaporated in vacuo. The resulting dark red oil was flash chromatographed on silica gel (10:1-5:1-3:1-1:1 hexane/ethyl acetate) to give 940 mg of slightly impure 4-(2,4-dichlorophenyl)-1-difluoromethyl-2-methylimidazole, obtained as an oily solid residue and taken directly to the next step.

reactant | 4-(2,4-dichlorophenyl)-2-methyl-1H-imidazole | 7.5 mmol, 1.7 g | ClC1=C(C=CC(=C1)Cl)C=1N=C(NC1)C | C10H8Cl2N2
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 8 ml | [OH-].[Na+]
product | 4-(2,4-dichlorophenyl)-1-difluoromethyl-2-methylimidazole | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C(F)F)C | C11H8Cl2F2N2
